US08466282B2
Tert-butyl (3R,5S)-3-acetyl-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate (230 mg) was dissolved in THF (5 ml), a 1M solution (1.9 ml) of methylmagnesium bromide in THF was added at 0° C., and the mixture was stirred at room temperature for 2 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:5-1:2) was concentrated under reduced pressure to give the object product (177 mg).

reactant | tert-Butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate | 230 mg | COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(N(C)OC)=O)C(=O)OC(C)(C)C)CC(C)C | C31H48N6O6
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3R,5S)-3-acetyl-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 177 mg | C(C)(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1CCCCOC)C1=CC=CC=C1)C(=O)OC(C)(C)C | C30H45N5O5
